US04857524
To a solution of 0.48 g of 3-[(R)-(-)-thiazolidine-4-carbonyl]thiazolidine hydrochloride and 0.36 g of isonicotinoylchloride hydrochloride in 10 ml of dichloromethane was added 1.6 ml of triethylamine with stirring under cooling. The reaction mixture was stirred for 24 hours at room temperature, and then washed with water, dried over anhydrous sodium sulfate, and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: chloroform/acetonitrile=1/1) to obtain 0.46 g of 3-[(R)-(-)-3-isonicotinoylthiazolidine-4-carbonyl]thiazolidine (yield: 42%).

reactant | 3-[(R)-(-)-thiazolidine-4-carbonyl]thiazolidine hydrochloride | 0.48 g | Cl.S1CN[C@@H](C1)C(=O)N1CSCC1
reactant | isonicotinoylchloride hydrochloride | 0.36 g | Cl.C(C1=CC=NC=C1)(=O)Cl
reactant | triethylamine | 1.6 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3-[(R)-(-)-3-isonicotinoylthiazolidine-4-carbonyl]thiazolidine | 0.46 g, yield: 42% | C(C1=CC=NC=C1)(=O)N1CSC[C@H]1C(=O)N1CSCC1 | C13H15N3O2S2
